US08314098B2
Synthesis of N-(2-methoxy-benzothiazol-4-yl-methylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 74)
There was dissolved, in ethanol (2 mL), (7-morpholin-4-yl-2-phenyl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine (15.1 mg, 0.0487 mM) and then 2-methoxy-benzo-thiazole-4-carbaldehyde (10.4 mg, 0.054 mM) was added to the solution and the mixture was stirred at room temperature for one hour. This reaction liquid was filtered and then the resulting solid was washed with diethyl ether to thus give the title compound (20.1 mg, yield: 85%).

reactant | (7-morpholin-4-yl-2-phenyl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0487 mM, 15.1 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=CC=C2)NN | C16H18N6O
reactant | 2-methoxy-benzo-thiazole-4-carbaldehyde | 0.054 mM, 10.4 mg | COC=1SC=2C(N1)=C(C=CC2)C=O | C9H7NO2S
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(2-methoxy-benzothiazol-4-yl-methylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 20.1 mg, yield: 85% | COC=1SC2=C(N1)C(=CC=C2)C=NNC2=NC=1N(C(=C2)N2CCOCC2)N=C(C1)C1=CC=CC=C1 | C25H23N7O2S
